US06525042B1
1-[3-(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)propionyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In tetrahydrofuran (10 ml), 3-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin -2-yl)propionic acid (445 mg) was dissolved, followed by the dropwise addition of N-methylmorpholine (170 μl) and isobutyl chloroformate (210 μl) successively at −20° C. After stirring at −20° C. for 10 minutes, 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride (607 mg) dissolved in advance in dichloromethane (10 ml) was added to the reaction mixture. The reaction mixture was stirred at −20° C. for 10 minutes and then heated to room temperature. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloroethane. The resulting solution was washed with 1N hydrochloric acid, saturated sodium bicarbonate and saturate saline and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=4:1˜2:1), whereby the title compound (625 mg, 72%) was obtained.

reactant | 3-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin -2-yl)propionic acid | 445 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)CCC(=O)O | C15H21NO4S
reactant | N-methylmorpholine | 170 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 210 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | 607 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[3-(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)propionyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)CCC(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C29H34ClN3O5S2
